US06660752B2
Preparation of Ethyl 5-phenyl-1,3-oxazole-4-carboxylate
To a mixture of ethyl isocyanoacetate (8.74 mmol) and 1,8-diazabicyclo(5.4.0)undec-7-ene (8.84 mmol) in THF (12 mL) was added a solution of benzoic anhydride (8.84 mmol) in THF (2 mL) at 10° C. with stirring. The resulting mixture was maintained with vigorous stirring for 18 hours at room temperature. The solvent was evaporated to afford a residue that was partitioned between EtOAc and water. The organic extract was dried over anhydrous sodium sulfate and concentrated to afford an amber oil which was purified by medium pressure column chromatography (Biotage 40S normal phase silica gel column, hexanes: EtOAc=6:1 to 4:1 to 2:1). The product was obtained as a clear oil in 42%. MH+=218.1, retention time (LC-MS)=2.52 min.

reactant | ethyl isocyanoacetate | 8.74 mmol | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 8.84 mmol | N12CCCCCC2=NCCC1 | C9H16N2
reactant | benzoic anhydride | 8.84 mmol | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl 5-phenyl-1,3-oxazole-4-carboxylate | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)OCC | C12H11NO3
